US06316677B1
A 500-ml three-neck reactor was charged with Amberlist-15 (7.5 g, 2.6 mmols), phenol (178.5 g, 633 mmols) and p-xylene (60 ml). The contents were heated up to 80° C. in nitrogen atmosphere. Under agitation, a mixture of m-diisopropenylbenzene (m-DIPeB, 15.0 g, 31.5 mmols) and p-xylene (60 ml) was fed thereto over 3 hours at 80° C. After completion of the feed, agitation was carried out at 80° C. for 10 minutes and then Amberlist-15 was removed by filtration. The filtrate was analyzed by liquid chromatography. Bisphenol M (α, α″-bis(4-hydroxyphenyl)-1,3-diisopropylbenzene, 30.5 g, yield 93%), the intended product, and the o, p-product, the position isomer of bisphenol M (α-(4-hydroxyphenyl)-α″-(2-hydroxyphenyl)-1,3-diisopropylbenzene, 1.67 g, yield 5.1%), were obtained.

reactant | phenol | 633 mmols, 178.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | m-diisopropenylbenzene | 31.5 mmols, 15.0 g | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
solvent | p-xylene | 60 ml | CC=1C=CC(=CC1)C | C8H10
solvent | p-xylene | 60 ml | CC=1C=CC(=CC1)C | C8H10
product | bisphenol M | 1.67 g, yield 5.1% | CC(C)(C1=CC=C(C=C1)O)C2=CC(=CC=C2)C(C)(C)C3=CC=C(C=C3)O | C24H26O2
